US08580777B2
B. (S)-3-(4-Allyloxycyclohexyl)-2-tert-butoxycarbonylaminopropionic acid
A solution of 5.42 g (18.86 mmol) of (S)-2-tert-butoxycarbonylamino-3-(4-hydroxy-cyclohexyl)propionic acid in 20 ml of DMF was added dropwise over the course of 30 min to a suspension of 1.89 g (47.14 mmol) of 60% sodium hydride in 20 ml of DMF at 0° C. Then 2.28 g (18.86 mmol) of allyl bromide were added, and the mixture was warmed to RT and then stirred for 3 h. It was cautiously quenched with water and concentrated. The residue was dissolved in water and washed with ethyl acetate. The aqueous phase was adjusted to pH 2 with 6M HCl and extracted with ethyl acetate. The organic phase was dried over Na2SO4, filtered and concentrated. The title compound obtained in this way was reacted further without further purification.

reactant | (S)-2-tert-butoxycarbonylamino-3-(4-hydroxy-cyclohexyl)propionic acid | 18.86 mmol, 5.42 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1CCC(CC1)O | C14H25NO5
reactant | sodium hydride | 47.14 mmol, 1.89 g | [H-].[Na+]
reactant | allyl bromide | 18.86 mmol, 2.28 g | C(C=C)Br | C3H5Br
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | (S)-3-(4-Allyloxycyclohexyl)-2-tert-butoxycarbonylaminopropionic acid | C(C=C)OC1CCC(CC1)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C17H29NO5
